US07291631B2
To a solution of 2-methyl-3-phenoxy-pyridine (0.501 g, 2.70 mmol) (Butler, D E et al. J. Med. Chem 1981, 24, 346-350) in CH2Cl2 (2.7 mL) was added 3-chloroperoxybenzoic acid (0.698 g, 4.05 mmol) and the solution stirred at room temperature for 24 h. Reaction mixture was diluted with CH2Cl2 (30 mL) and the organic layer was washed with saturated aqueous NaHCO3 (2×30 mL), dried (MgSO4), and concentrated to give 2-methyl-3-phenoxy-pyridine 1-oxide as a brown oil, which was used without further purification. 1H NMR (CDCl3) δ 2.54 (s, 3H), 6.77 (d, 1H), 6.97-7.06 (m, 3H), 7.16-7.21 (m, 1H), 7.34-7.41 (m, 2H), 8.11 (m, 1H).

reactant | 2-methyl-3-phenoxy-pyridine | 2.70 mmol, 0.501 g | CC1=NC=CC=C1OC1=CC=CC=C1 | C12H11NO
reactant | 3-chloroperoxybenzoic acid | 4.05 mmol, 0.698 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 2.7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-3-phenoxy-pyridine 1-oxide | CC1=[N+](C=CC=C1OC1=CC=CC=C1)[O-] | C12H11NO2
